US04138581
Following the procedure described above in Example 58A but using 3,4-dihydroxyphenyl isopropylaminomethyl ketone hydrochloride instead of 3,4-dihydroxyphenyl tert-butylaminomethyl ketone hydrochloride and 2-chloro-3-methoxy-4-methylbenzoyl chloride instead of isovaleryl chloride, there is obtained 3-hydroxy-4-(2-chloro-3-methoxy-4-methylbenzoyloxy)phenyl isopropylaminomethyl ketone; and by interaction of this base with hydrochloric acid there is obtained the hydrochloride salt. When this hydrochloride is catalytically hydrogenated, using a procedure similar to that described above in Example 2B, there is obtained 3-hydroxy-4-(2-chloro-3-methoxy-4-methylbenzoyloxy)-apha-(isopropylaminomethyl)benzyl alcohol hydrochloride.

reactant | 3,4-dihydroxyphenyl isopropylaminomethyl ketone hydrochloride | Cl.C(C)(C)NCC(=O)C1=CC(=C(C=C1)O)O
reactant | 2-chloro-3-methoxy-4-methylbenzoyl chloride | ClC1=C(C(=O)Cl)C=CC(=C1OC)C | C9H8Cl2O2
product | 3-hydroxy-4-(2-chloro-3-methoxy-4-methylbenzoyloxy)phenyl isopropylaminomethyl ketone | C(C)(C)NCC(=O)C1=CC(=C(C=C1)OC(C1=C(C(=C(C=C1)C)OC)Cl)=O)O | C20H22ClNO5
